US08664220B2
Step 1: 4,4,5,5-Tetramethyl-2-(3-trifluoromethyl-phenyl)-[1,3,2]dioxaborolane
Prepared according to the procedure described in Example 1, Step 9, using 1-bromo-3-trifluoromethyl-benzene and bis(pinacolato)diboron.

reactant | 1-bromo-3-trifluoromethyl-benzene | BrC1=CC(=CC=C1)C(F)(F)F | C7H4BrF3
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 4,4,5,5-Tetramethyl-2-(3-trifluoromethyl-phenyl)-[1,3,2]dioxaborolane | CC1(OB(OC1(C)C)C1=CC(=CC=C1)C(F)(F)F)C | C13H16BF3O2
